US08071597B2
Intermediate 2: N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine (Formula XI)
3-chloroquinoxalin-2-amine (1.8 g, 10 mmol) and 3,5-dimethoxyaniline (4.6 g, 30 mmol, commercially available from Aldrich) are taken up in NMP (4.5 ml) and heated to 145° C. in the sealed tube for 3 h under N2. When TLC confirms the total consumption of the starting material, the reaction is cooled to rt and treated with EtOAc (4 ml). The first crop of solid is filtered followed by the 2nd crop. The first is recrystallised from CHCl3: EtOAc and the 2nd crop is washed with EtOAc, to afford 1.8 g (60%) of pure title compound. LC/MS: (ES+): 297.1, (ES−): 295.1.

reactant | 3-chloroquinoxalin-2-amine | 10 mmol, 1.8 g | ClC=1C(=NC2=CC=CC=C2N1)N | C8H6ClN3
reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
solvent | NMP | 4.5 ml | CN1CCCC1=O | C5H9NO
product | N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine | 1.8 g, 60% | COC=1C=C(C=C(C1)OC)NC1=NC2=CC=CC=C2N=C1N | C16H16N4O2
